US05504108
4-Isobutylmandelic Acid
To a dry 3-necked round-bottom flask under argon atmosphere equipped with a dropping funnel, septum and magnetic stir bar was added 12.6 mL (80 mmol) of isobutylbenzene, 12.3 mL (80 mmol) of diethyl ketomalonate (DEOM) and 40 mL of CH2Cl2. The flask was cooled with stirring to 0° C. followed by the dropwise addition of 11.7 mL (100 mmol) of SnCl4. The yellow reaction mixture was allowed to warm slowly to room temperature and after 3 hours the reaction was quenched by pouring the suspension into a mixture of 50 g of ice and 50 mL of 5% aqueous HCl and extracted with ether (3×100 mL). The ether layers were combined and washed with water (2×50 mL), 25 mL of brine, dried over MgSO4 and concentrated. The crude diester was diluted with 120 mL of H2O and 18 g (320 mmol) of KOH was added. The orange reaction mixture was stirred at 90° C. for 1.5 h, and washed with 2×30 mL of ether. Decarboxylation was effected by adjusting the pH to 1 with concentrated HCl and warming to 90° C. for 45 minutes. The pH of the solution was monitored and additional HCl was added as needed to maintain the pH of the solution below 2. The two phase system was extracted with 3×75 mL of ether and the combined ether layers were washed with 25 mL of H2O, 25 mL of brine, dried over MgSO4 and concentrated leaving 12.3 g (73.8%) of a white solid which was not purified, but directly resolved into individual enantiomers.

reactant | isobutylbenzene | 80 mmol, 12.6 mL | C(C(C)C)C1=CC=CC=C1 | C10H14
reactant | diethyl ketomalonate | 80 mmol, 12.3 mL | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
reactant | SnCl4 | 100 mmol, 11.7 mL | Cl[Sn](Cl)(Cl)Cl
reactant | KOH | 320 mmol, 18 g | [OH-].[K+]
solvent | H2O | 120 mL | O | H2O
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-Isobutylmandelic Acid | 12.3 g, 73.8% | C(C(C)C)C1=CC=C(C(C(=O)O)O)C=C1 | C12H16O3
